data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8594,"CC(=CC[C:1](C)=[O:2])[NH:3]C1=CC([N+](=O)[O-])=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5912,"C#CCCC1(C[C:1]([Si](C)(C)C)=[C:2](C)[O-:3])C(=O)CCC1C.C[O:4][H:5].[OH][K]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4737,"CCNC(C)(O)[NH2:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6711,"C1=CC=C([NH:1][N:2]=[O:3])C=C1.[H:4][Cl:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4331,"CCC1=CC=C[N+:1]([CH:2]2CC(O)C(COC3CCCCC3)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3752,"CC(C)(C)C1=CC=C(C2=C[CH:1]([H:2])[C:3](C3=CC=C(C(C)(C)C)C=C3)=[O+:4]2)C=C1.CCOCC.F[B-](F)(F)[OH:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1016,"BrC(Br)Br.CC(C)[CH:1](C)[O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,5560,"CC(C)[O-].CC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C1=CC=CC=C1)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,9244,"CC(C)OC(=O)C1O[B-:1]([CH2:2][CH:3]=[CH:4]C)([O+:5]=[CH:6]CO[Si](C(C)C)(C(C)C)C(C)C)OC1C(=O)OC(C)C|((1, 2), 3);((3, 4), 6);((6, 5), 5)"
train,pmechdb_split_0,0,3944,"O.O=CC1=CC=C(Cl)C(Cl)=C1[O-:1].[Cl-].[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6075,"CCC=O.[Cl][Ti:1]([Cl])([Cl])[Cl].[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,6472,"CC[NH2:1].C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8781,"CC(=O)O[BH-](OC(C)=O)OC(C)=O.CC(=O)[O-:1].O=[N+]([O-])C1=CC=C(N2CC[N+:2](C3(O)CC4CC(C4)C3)([H:3])CC2)C=C1.[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2823,"C[C:1]1(C)[CH2:2][P-:3](C)(C)(=O)[O:4]1|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8522,"C#N.N#CC(N)[C:1]#[N:2].N#[C-:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9018,"C[CH2:1][O:2][P+:3](C)(C)C.O=C1CCC(=O)[N-:4]1|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,2914,"C[C+:1]1C=CC2=C(C=CC=C2)[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6857,"N#CC1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7482,"CCC1CC[CH:1]=[CH:2]C1=O.CC[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1186,"[H:1][NH3+:2].[O-]CC=CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4851,"N[C+:1]1C=C[C:2](N=NC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[Cl-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,2066,"CC1(C)C[C:1]([O-:2])=[CH:3][CH:4]1[OH:5].O|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8828,"C[N:1](C)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,86,"CO[C:1]1=[CH:2]OC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1707,"CCCC[B-:1]1(CCCC)OC(C2=CC=CC=C2)C(C)C(N2C(=O)OCC2CC2=CC=CC=C2)=[O+:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,329,"COCC1CCCN1N.COCC1CCCN1[NH:1][C:2]1([OH2+:3])C=C(C)CCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1026,"CN(C(=O)[C:1](C)(Br)[N+:2]#N)C1=CC=CC=C1.O=C1CCC(=O)[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3767,"CC1=CC2=C(C=C1)C1([OH:1])OCCOC13CCC(C)CCC23.CC[SiH](CC)CC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,7794,"CC1(C)C=C([O:1][Si-](C)(C)(C)C)CCC1.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,7409,"C1=CC=C(C=C[CH:1]([NH:2]CC2=CC=CC=C2)[OH:3])C=C1.CO.NCC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8694,"O=S(=O)(C(F)(F)F)[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2420,"OC12CCCCC1CC[C:1](=[O:2])[CH:3]2[H:4].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5230,"CO.N.O=C(C[C:1]1([H:2])CCCC[C:3]1=[NH2+:4])C1=CC=C(Cl)C=C1.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,922,"CCO[C:1](=[O:2])[C:3](C)(C)[C:4](OCC)(C(C)C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2487,"C[Si:1](C)(C)I.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,2418,"C[O+](C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2CCC2)C=C1)[B-:1](Br)(Br)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1056,"C[B-:1](C)([CH3:2])[O:3][OH:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6354,"C[P+:1](C)(C)[O:2][CH3:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4632,"C[C:1](CC=[N+]1CCCCC1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4015,"C[NH+](C)C1=C(Br)C=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,988,"CCOC(=O)C[C:1](CC(=O)OCC)=[O+:2][B-](F)(F)F.CCOCC.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3637,"CCCC1=C(B2OC3=C(C=CC=C3)O2)C=C[C:1]([O:2][CH3:3])=[O+:4]1.[Cl-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1400,"C=C1CCCC2C[C:1]([NH+:2]3CCCC3)([O-:3])C(C(C)C(=O)OCC)CC12.[Br-].[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3722,"C#CC[Si](C)(C)C.CCOC(=O)N(CC1=CC=CC=C1)C(C1=CC=CC=C1)[O:1]CC.[Cl][Sn:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9609,"CCC(C)[O-:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2137,"CC#[N:1].CS(=O)(=O)OCC1[O+:2]([B-](F)(F)F)[CH2:3]1|(1, 3);((3, 2), 2)"
